Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Worsening depression and suicidal ideation.
 
Major Surgical or Invasive Procedure:
___ x 4

 
History of Present Illness:
This is a ___ yo male with a history of depression and past 
suicide attempts in his early ___ by hanging and Wellbutrin 
overdose who presents to the ED with worsening depression and 
suicidal ideation over the past week, after being referred by 
his covering psychiatrist. The patient's worsening depression 
has occurred in the setting of fighting with his wife and having 
a 2 month old baby.
.
The patient reports that he and his wife have been fighting more 
about who will take care of the baby. He reports that he 
continues to get a full night's sleep due to the medication he 
takes, but his wife has been sleep deprived.
.
Notably, the patient began ECT in his early ___ and has been on 
maintenance ECT every ___ weeks since then until ___. 
The patient noticed that his depression would improve after each 
ECT maintenance session and then gradually worsen as the next 
session approached. In ___ the patient stopped ECT and 
started ___ every other week because of concerns about his 
memory. The patient said that sometimes he would be talking to 
his wife and she would bring up an event that happened ___ years 
ago, and it would be gone from his memory. The patient had 
formal neuropsychiatric testing that did not reveal any 
significant memory deficits or learning disability. The patient 
said he was not interested in resuming ECT because he wanted to 
continue with ___, which he found effective.
.
The patient has somewhat decreased energy, slightly decreased 
interest in his hobbies of video game playing and ___ 
___, unchanged sleep, slightly increased feelings of 
guilt about not helping out more about the house, and slightly 
increased feelings of hopelessness about whether he and his wife 
will be able to get along better.
 
Past Medical History:
Past psychiatric history:
The patient has a history of chronic/recurrent depression with 4 
prior suicide attempts and four prior psychiatric 
hospitalizations in his early ___. The patient overdosed on 
Wellbutrin at age ___. His most recent suicide attempt was at age 
___. On his last suicide attempt, the patient attempted hanging 
with a belt. He put the belt around his neck and fastened it to 
the bar in a closet. He passed out and then the bar broke, and 
he woke up again.
.
Multiple medication trials include  aripiprazole, mirtazapine, 
buspirone, duloxetine, citalopram, venlafaxine, -desipramine and 
nortriptyline
.
ECT age ___ including maintenance treatment every ___ weeks at 
___, until ___. Started ___ at ___ in ___, now 
biweekly, most recent
treatment was ___ for psychopharmacology and therapy 
x ___ years
Currently on therapy every other week (away this week- Dr ___ 
___ covering ___  - see above).
.
Substance use history absent for any problematic alcohol, 
tobacco, or illicits substance use. 
.
Past medical history: No seizure disorder or head trauma 
history. No active medical issues
 
Social History:
___
Family History:
The patient's older sister has depression, his paternal aunt has 
depression, and his maternal grandmother with depression. 
 
Physical Exam:
Gen: ___ year-old male with reddish brown hair and facial hair. 
In
no acute distress.
Cardiac: RRR
Pulm: Lungs CTAB
Abdomen: +BS, nontender to palpation, no guarding
Extremities: No edema
Neuro:
Cranial nerves: I-XII grossly intact
Moves all four extremities

MSE
-Appearance: Patient is a ___ year old male, slightly overweight, 
who appears stated age. Hygiene and grooming are good.
-Behavior: Cooperative with interview. Sitting quietly in chair.
-Mood and Affect: "okay"; slightly restricted affect. Does not 
appear strongly dysphoric.
-Thought process: Linear, logical.  
-Thought Content: Denies SI. Denies HI. Denies AH or VH. Denies 
paranoia.  
-Judgment and Insight: Fair/limited
Cognition:
Able to attend to conversation and answer questions 
appropriately. Cognition appears intact.
-Speech: Rate slightly slow. Does not elaborate much on his 
answers.
-Language: Fluent ___
 
Pertinent Results:
WBC-6.7 RBC-5.35 Hgb-15.9 Hct-46.1 MCV-86 MCH-29.7 MCHC-34.5 
RDW-11.9 RDWSD-36.9 Plt ___
Neuts-50.7 ___ Monos-6.3 Eos-1.8 Baso-0.6 Im ___ 
AbsNeut-3.39 AbsLymp-2.69 AbsMono-0.42 AbsEos-0.12 AbsBaso-0.04
Glucose-130* UreaN-18 Creat-1.2 Na-140 K-4.1 Cl-103 HCO3-24 
AnGap-13
Mg-2.2
Cholest-171
%HbA1c-6.3* eAG-134*
Triglyc-159* HDL-30* CHOL/HD-5.7 LDLcalc-109
TSH-1.1
ASA-NEG Ethanol-NEG Acetmnp-NEG Tricycl-NEG
 
Brief Hospital Course:
LEGAL AND SAFETY
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
PSYCHIATRIC
The patient presented to the unit due to worsening depression 
and suicidal thoughts of hanging himself with a belt over the 
past week. Prior to admission, he cut himself superficially on 
the left upper arm with a kitchen knife. Patient cited more 
frequent arguments with his spouse and strain of having a 
newborn child as the precipitants for worsening depressed mood 
and acute suicidal ideation. However, should be noted that 
suicidal ideation abated upon admission to inpatient unit and 
remained absent throughout admission.
.
Although the patient has longstanding history of major 
depression, with multiple prior suicide attempts and psychiatric 
hospitalizations requiring ECT, his presentation appeared most 
consistent with an adjustment disorder with depressive features. 
 He did not endorse, nor did he exhibit, marked neurovegetative 
signs of depression. He also appeared relatively euthymic 
throughout his hospitalization. However, patient described 
feelings of isolation and inadequacy, which he noted have been 
themes of his depressive episodes, but in this circumstance 
likely occurred in the setting of a significant life change 
(e.g. having a new child).
.
During his hospitalization the patient had conversations with 
multiple providers and had opportunity to explore and reflect on 
the negative and suicidal feelings that had been triggered 
recently. He also attended groups and worked on his coping 
skills. He was particularly interested in using DBT skills to 
manage his negative feelings. The patient also received 
treatments ___ while inpatient. On the patient's 
second-to-last day of hospitalization, treatment team 
facilitated a family meeting with his wife to discuss strategies 
to improve communication and understanding between them. Both 
patient and his wife expressed interest in pursuing couples 
therapy.
.
By the end of his hospitalization, the patient expressed a 
readiness to go home and an optimism about working on his 
relationship with his wife. He appeared to be more cheerful and 
was observed to be interacting with other patients in the 
milieu.
.
Future treatment should focus on individual therapy for the 
patient as well as couples therapy to work on communication, 
mutual support, and effective parenting in his family.
.
MEDICAL
The patient has no active medical issues. His A1C is elevated at 
6.3 which should be monitored ongoing by his providers while the 
patient is taking an atypical antipsychotic.
.
COLLATERAL INFORMATION AND FAMILY INVOLVEMENT
Treatment team was in communication with patient's psychiatrist 
throughout admission. Team also spoke with patient's wife on the 
phone several times during his hospitalization and arranged for 
her to attend a family meeting on his second to last day of 
hospitalization.
.
RISK ASSESSMENT AND PROGNOSIS
Upon presentation, the patient was evaluated and felt to be at 
an increased risk of harm to himself based upon his worsening 
depressed mood over the past week and thoughts of hanging 
himself with a belt. He had also cut himself superficially with 
a kitchen knife. His static factors noted at that time included 
a history of suicide attempts, history of chronic mental 
illness, male gender, Caucasian race, and relatively young age. 
Modifiable risk factors included his suicidal feelings, 
perceived lack of support from his wife, limited coping skills, 
social withdrawal, and the temporary absence of his outpatient 
provider, Dr. ___ was out of the office. These modifiable 
risk factors were addressed with psychotherapy and with a family 
meeting. The patient is being discharged with many protective 
factors, including the patient's ongoing relationship with his 
outpatient treatment provider, his marital status, support from 
his parents, help-seeking nature, improved coping skills, and a 
child in the home. Finally, patient demonstrated preserved 
capacity to engage in a meaningful conversation about safety 
planning regarding what he would do if thoughts of suicide or 
self-harm returned (e.g. patient would contact Dr. ___, 
present to the ED, or call ___. Overall the patient is not at 
an acutely elevated risk of self-harm.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 15 mg PO DAILY 
2. BusPIRone 30 mg PO BID sexual side effects 
3. DULoxetine 60 mg PO BID 
4. Mirtazapine 30 mg PO QAM 
5. Mirtazapine 60 mg PO QHS 

 
Discharge Medications:
1. ARIPiprazole 15 mg PO DAILY 
2. BusPIRone 30 mg PO BID sexual side effects 
3. DULoxetine 60 mg PO BID 
4. Mirtazapine 30 mg PO QAM 
5. Mirtazapine 60 mg PO QHS 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment Disorder with Depressed Mood
History of Major depressive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___